US07855298B2
Preparation 40: (1S,5R)-3-(3-Chloropropyl)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane
To a solution of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (1.00 g) in dry tetrahydrofuran (5 mL), diisopropylethylamine (2.4 mL) and 1-bromo-3-chloropropane (3.7 mL) were added and the resulting mixture was heated at reflux for 3 hours. After cooling at room temperature it was diluted with ethyl acetate (30 mL) washed twice with a saturated solution of NH4Cl in water (20 mL) and once with a saturated solution of NaHCO3 in water (20 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude product was purified by silica gel chromatography eluting with cyclohexane/EtOAc 7:3 to give the title compound as a colourless oil (1.26 g).

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 1.00 g | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 1-bromo-3-chloropropane | 3.7 mL | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | diisopropylethylamine | 2.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (1S,5R)-3-(3-Chloropropyl)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 1.26 g | ClCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | C15H17ClF3N
